US04537993
The procedure of Example 1 is again followed except that 860 parts of methyl acrylate are reacted with 452 parts of t-butylphosphine. 4.9 Parts of azobis-1-isovaleronitrile are used as catalyst. The liquid reaction product, t-butyl bis(carbomethoxyethyl)phosphine is oxidized to give t-butyl bis(carbomethoxyethyl)phosphine oxide which is then hydrolyzed. The product, t-butyl bis(β-carboxyethyl)phosphine oxide is isolated as an off-white crystalline solid having a m.p. of 174° C.

reactant | methyl acrylate | C(C=C)(=O)OC | C4H6O2
reactant | t-butylphosphine | C(C)(C)(C)P | C4H11P
reactant | t-butyl bis(carbomethoxyethyl)phosphine | C(C)(C)(C)P(CCC(=O)OC)CCC(=O)OC | C12H23O4P
product | t-butyl bis(carbomethoxyethyl)phosphine oxide | C(C)(C)(C)P(CCC(=O)OC)(CCC(=O)OC)=O | C12H23O5P
